US08426437B2
8-[3-(tert-Butoxycarbonyl-methyl-amino)-pyrrolidine-1-sulfonyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate (169)
This compound was prepared according to general method of esterification C from 294 mg (0.6 mmol) of 8-[3-(tert-butoxycarbonyl-methyl-amino)-pyrrolidine-1-sulfonyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid, 836 μL (6 mmol) of triethylamine and 492 μL (3 mmol) of di-n-propylsulfate to give, after purification by chromatography on silica (eluent dichloromethane/methanol 98/2), 155 mg (50%) of 8-[3-(tert-butoxycarbonyl-methyl-amino)-pyrrolidine-1-sulfonyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a brown solid.

reactant | 8-[3-(tert-butoxycarbonyl-methyl-amino)-pyrrolidine-1-sulfonyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.6 mmol, 294 mg | C(C)(C)(C)OC(=O)N(C1CN(CC1)S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O)C | C22H26N4O7S
reactant | triethylamine | 6 mmol, 836 μL | C(C)N(CC)CC | C6H15N
reactant | di-n-propylsulfate | 3 mmol, 492 μL | C(CC)OS(=O)(=O)OCCC | C6H14O4S
product | 8-[3-(tert-Butoxycarbonyl-methyl-amino)-pyrrolidine-1-sulfonyl]-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | C(C)(C)(C)OC(=O)N(C1CN(CC1)S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C.C(CC)C(=O)[O-] | InChI=1S/C21H26N4O5S.C4H8O2/c1-21(2,3)30-20(27)24(4)13-8-10-25(12-13)31(28,29)14-5-6-17-16(11-14)15-7-9-22-18(15)19(26)23-17;1-2-3-4(5)6/h5-7,9,11,13,22H,8,10,12H2,1-4H3,(H,23,26);2-3H2,1H3,(H,5,6)/p-1
